US06900316B2
Following the general procedure of Examples 2 and 3, 791.0 mg (8.404 mM) of 4-aminopyridine was reacted with 212.5 mg (26.73 mM) of lithium hydride and 3002.4 mg (8.4 mM) of 2-(methylsulfanyl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one to give 92.7% yield (95.9% purity) of 2-(pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one.

reactant | 4-aminopyridine | 8.404 mM, 791.0 mg | NC1=CC=NC=C1 | C5H6N2
reactant | lithium hydride | 26.73 mM, 212.5 mg | [H-].[Li+]
reactant | 2-(methylsulfanyl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one | 8.4 mM, 3002.4 mg | CSC=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C18H19N3O3S
product | 2-(pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one | 92.7% yield | N1=CC=C(C=C1)NC=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C22H21N5O3
